US06235731B1
2) Synthesis of N-[1-[(thiazol-4-yl)methyl]piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride
To a solution of N-[1-[(thiazol-4-yl)methyl]piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol was added 2 ml (8.0 mM) of 4N-HCl/ethyl acetate. The solvent was distilled off under reduced pressure and the residue was diluted with ether. The crystals that formed were harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals (150 mg, 28%).

reactant | N-[1-[(thiazol-4-yl)methyl]piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | S1C=NC(=C1)CN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C20H21N5OS2
reactant | HCl ethyl acetate | Cl.C(C)(=O)OCC
solvent | ethanol | C(C)O | C2H6O
product | N-[1-[(thiazol-4-yl)methyl]piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride | 150 mg, 28% | Cl.Cl.Cl.S1C=NC(=C1)CN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C20H21N5OS2.3ClH/c26-20(17-8-16-10-21-18-2-1-3-19(28-17)25(16)18)22-9-14-4-6-24(7-5-14)11-15-12-27-13-23-15;;;/h1-3,8,10,12-14H,4-7,9,11H2,(H,22,26);3*1H
